US08106221B2
At 0° C., CDI (48.6 mg, 0.3 mmol) was added to a solution of (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate (81 mg, 0.3 mmol), prepared using procedures described in U.S. Prov. App No. 05/036,230 (PCT App No. 60/616,770), and DIEA (161 mg, 1.25 mmol) in anhydrous CH2Cl2 (8 mL) followed by stirring for 1 h. The solution was added to methyl 2-(1-(3-chlorophenyl)-3-(methylamino)propoxy)ethylcarbamate (75 mg, 0.25 mmol) in anhydrous CH2Cl2 (4 mL). The reaction mixture was allowed to warm to room temperature and stirred overnight. After the reaction was completed, the solvent was removed in vacuo. The product was purified with preparative TLC to afford tert-butyl (S)-2-(3-(3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-methylureido)-3-cyclohexylpropyl(methyl)carbamate (70 mg, 50%).

reactant | CDI | 0.3 mmol, 48.6 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate | 0.3 mmol, 81 mg | N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C15H30N2O2
reactant | DIEA | 1.25 mmol, 161 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 2-(1-(3-chlorophenyl)-3-(methylamino)propoxy)ethylcarbamate | 0.25 mmol, 75 mg | ClC=1C=C(C=CC1)C(CCNC)OCCNC(OC)=O | C14H21ClN2O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-2-(3-(3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-methylureido)-3-cyclohexylpropyl(methyl)carbamate | 70 mg, 50% | COC(=O)NCCOC(CCN(C(N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1)=O)C)C1=CC(=CC=C1)Cl | C30H49ClN4O6
